US08003649B2
A mixture of (R)-1-[1-(4-fluorophenyl)ethyl]piperazine (obtained as described in J. Med. Chem. 2007, 50, 3528) and 6-chloro-3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazine was allowed to react by the method described in Example 306 to give 6-[4-[(1R)-1-(4-fluorophenyl)ethyl]piperazin-1-yl]-3-(trifluoromethyl)[1,2,4]triazolo[4,3-b]pyridazine in 87% yield.

reactant | (R)-1-[1-(4-fluorophenyl)ethyl]piperazine | FC1=CC=C(C=C1)[C@@H](C)N1CCNCC1 | C12H17FN2
reactant | 6-chloro-3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazine | ClC=1C=CC=2N(N1)C(=NN2)C(F)(F)F | C6H2ClF3N4
product | 6-[4-[(1R)-1-(4-fluorophenyl)ethyl]piperazin-1-yl]-3-(trifluoromethyl)[1,2,4]triazolo[4,3-b]pyridazine | 87% yield | FC1=CC=C(C=C1)[C@@H](C)N1CCN(CC1)C=1C=CC=2N(N1)C(=NN2)C(F)(F)F | C18H18F4N6
